US06251827B1
2.2.2. 2,4-Dichloro-5-(2-Chlorobenzoylsulfamoyl)-N-(2-Methoxyethyl)Benzamide
At room temperature, 1.0 g (6.1 mmol) of 2-chlorobenzoic acid are dissolved in 120 ml of tetrahydrofuran and mixed with 1.0 g (6.1 mmol) of N,N′-carbonyldiimidazole. After 30 minutes at room temperature and a further 30 minutes at reflux temperature, 2.0 g (6.1 mmol) of 2,4-dichloro-N-(2-methoxyethyl)-5-sulfamoylbenzamide are added at reflux temperature. After 10 minutes, 0.9 g (6.1 mmol) of 1,5-diazabicyclo[5.4.0]-5-undecene are added and the mixture is kept at reflux temperature for a further 3 hours. The mixture is subsequently evaporated to dryness, the residue is taken up in 60 ml of acetonitrile and the solution is poured into 60 ml of water. The solution is acidified to pH 1 using 2N HCI and the precipitate is separated off, washed with water and dried.

reactant | 2-chlorobenzoic acid | 6.1 mmol, 1.0 g | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 2,4-dichloro-N-(2-methoxyethyl)-5-sulfamoylbenzamide | 6.1 mmol, 2.0 g | ClC1=C(C(=O)NCCOC)C=C(C(=C1)Cl)S(N)(=O)=O | C10H12Cl2N2O4S
reactant | 1,5-diazabicyclo[5.4.0]-5-undecene | 6.1 mmol, 0.9 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 2,4-Dichloro-5-(2-Chlorobenzoylsulfamoyl)-N-(2-Methoxyethyl)Benzamide | ClC1=C(C(=O)NCCOC)C=C(C(=C1)Cl)S(NC(C1=C(C=CC=C1)Cl)=O)(=O)=O | C17H15Cl3N2O5S
